US08470831B2
1M BBr3 in DCM (2.179 ml) was added dropwise in about 30 min. to a stirred solution of 2,4-difluoro-3-methoxybenzaldehyde (0.25 g, 1.452 mmol) in DCM, cooled at −10° C. and under nitrogen atmosphere The solution was stirred for 4 hrs at RT and then diluted with a mixture of THF/H2O (9/1) and heated for 30 min. at 80° C. The solvent was removed and the residue was partitioned between 10N NaOH and Et2O. The aqueous layer was acidified with 10 N HCl and extracted with Et2O/EtOAc (2/1). Organic layers were dried over sodium sulphate and evaporated to give 2,4-difluoro-3-hydroxybenzaldehyde (225 mg) as pale brown powder.

reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | 2,4-difluoro-3-methoxybenzaldehyde | 1.452 mmol, 0.25 g | FC1=C(C=O)C=CC(=C1OC)F | C8H6F2O2
solvent | DCM | 2.179 ml | C(Cl)Cl | CH2Cl2
solvent | THF H2O | C1CCOC1.O
product | 2,4-difluoro-3-hydroxybenzaldehyde | 225 mg | FC1=C(C=O)C=CC(=C1O)F | C7H4F2O2
